US04970115
(a) Preparation of bis[2-(2-ethylhexanoyloxy)ethyl]dibutyltin:
2.349 g (0.01 mol) of dibutyltin dihydride, 3.405 g (0.02 mol) of distilled vinyl 2-ethylhexanoate and 2.5 g of anhydrous cyclohexane were introduced into a Pyrex® tube. The exposure to ultraviolet rays was for 8 hours 30 min at 30°-35° C. The solvent was removed under vacuum at ambient temperature.

reactant | dibutyltin dihydride | 0.01 mol, 2.349 g | C(CCC)[SnH2]CCCC
reactant | vinyl 2-ethylhexanoate | 0.02 mol, 3.405 g | C(C)C(C(=O)OC=C)CCCC | C10H18O2
solvent | cyclohexane | 2.5 g | C1CCCCC1 | C6H12
product | bis[2-(2-ethylhexanoyloxy)ethyl]dibutyltin | C(C)C(C(=O)OCC[Sn](CCCC)(CCCC)CCOC(C(CCCC)CC)=O)CCCC | InChI=1S/2C10H19O2.2C4H9.Sn/c2*1-4-7-8-9(5-2)10(11)12-6-3;2*1-3-4-2;/h2*9H,3-8H2,1-2H3;2*1,3-4H2,2H3;
